US05389292
4-Difluoromethoxy-4'-octoxy-biphenyl
A mixture of 20 g of 4-hydroxy-4'-octyloxybiphenyl, 13.6 g of NaOH, 100 ml of water and 150 ml of dioxane is heated to 70° C. with stirring. 10 g of chlorodifluoromethane are passed into the cooled two-phase mixture with vigorous stirring. The reaction mixture is poured into water, and the product is extracted with petroleum ether. The organic phase is dried over Na2SO4, evaporated, and the residue is filtered through a short silica gel column using petroleum ether as eluent. The product is recrystallized from acetonitrile. Colourless crystals are obtained. m.p.: 104° C., c.p.: 20° C. (extrapolated), Δn =0.093, viscosity: 17

reactant | 4-hydroxy-4'-octyloxybiphenyl | 20 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C20H26O2
reactant | NaOH | 13.6 g | [OH-].[Na+]
reactant | chlorodifluoromethane | 10 g | ClC(F)F | CHClF2
solvent | water | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 4-Difluoromethoxy-4'-octoxy-biphenyl | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC)F | C21H26F2O2
